US07220856B2
Preparation of 7-Chloro-4-[4-(2-trifluoromethylbenzylaminocarbonyl)piperazin-1-yl]quinolin
2-Trifluoromethylbenzylamine (70 μL, 0.5 mmol), 4-nitrophenyl chloroformate (101 mg, 0.5 mmol), triethylamine (238 μL, 1.7 mmol), and 7-chloro-4-(piperazin-1-yl)quinoline (124 mg, 0.5 mmol) are treated according to method D delivering the title product as a pale yellow solid after column chromatography with hexane-EtOAc.

reactant | 2-Trifluoromethylbenzylamine | 0.5 mmol, 70 μL | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
reactant | 4-nitrophenyl chloroformate | 0.5 mmol, 101 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 1.7 mmol, 238 μL | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 0.5 mmol, 124 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
product | 7-Chloro-4-[4-(2-trifluoromethylbenzylaminocarbonyl)piperazin-1-yl]quinolin | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C22H20ClF3N4O
